US05731477
1-Acetyl-6-bromo-5-difluoromethoxyindoline
1-Acetyl-6-bromo-5-hydroxyindoline (2 g, 7.8 mmol), methyl 2-chloro-2,2-difluoroacetate (0.82 ml, 7.8 mmol) and potassium carbonate (1.08 g, 7.8 mmol) were suspended in N,N-dimethylformamide (20 mL) under an argon atmosphere and placed in a 65° C. oil bath. After 3 hr, additional methyl 2-chloro-2,2-difluoroacetate (0.3 ml, 2.8 mmol) and potassium carbonate (0.3 g, 2.2 mmol) was added and heated for 18 hr. The solvent was then removed in vacuo and the residue was partitioned between cold 3N HCl and ether. The aqueous layer was extracted three times with ether, the combined organic extracts were washed with brine, dried (Na2SO4), filtered and evaporated. The solid was purified by flash chromatography (2% MeOH/CH2Cl2) to provide the title compound as a white solid

reactant | 1-Acetyl-6-bromo-5-hydroxyindoline | 7.8 mmol, 2 g | C(C)(=O)N1CCC2=CC(=C(C=C12)Br)O | C10H10BrNO2
reactant | methyl 2-chloro-2,2-difluoroacetate | 7.8 mmol, 0.82 ml | ClC(C(=O)OC)(F)F | C3H3ClF2O2
reactant | potassium carbonate | 7.8 mmol, 1.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-chloro-2,2-difluoroacetate | 2.8 mmol, 0.3 ml | ClC(C(=O)OC)(F)F | C3H3ClF2O2
reactant | potassium carbonate | 2.2 mmol, 0.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 1-Acetyl-6-bromo-5-difluoromethoxyindoline | C(C)(=O)N1CCC2=CC(=C(C=C12)Br)OC(F)F | C11H10BrF2NO2
